US04831041
A mixture of 2,6-dinitrobenzyl acetate (0.56 g), platinic oxide (73 mg), acetic acid (6 ml) and acetic anhydride (6 ml) was stirred in hydrogen gas at room temperature until the theoretical amount of hydrogen gas had been absorbed. The catalyst was removed by filtration and the filtrate was evaporated under reduced pressure. The resultant residue was subjected to column chromatography on silica gel (18 g) and eluted with a mixture of chloroform and methanol (100:3) to give 2,6-di(acetamido)benzyl acetate (0.45 g).

reactant | 2,6-dinitrobenzyl acetate | 0.56 g | C(C)(=O)OCC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C9H8N2O6
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | hydrogen | [H][H] | H2
product | 2,6-di(acetamido)benzyl acetate | 0.45 g | C(C)(=O)OCC1=C(C=CC=C1NC(C)=O)NC(C)=O | C13H16N2O4
